US05284944
Step 4: 1,4,7-Trimethyl-1,4,7-triazacyclononane (MeTACN)
To a magnetically stirred 500-mL flask containing 106 mL of concentrated sulfuric acid and 19 ml of milli-Q water was added 100 g (0.17 mol) of Ts3 -TACN over a few minutes. A large portion of the Ts3 -TACN floated on top of the mixture. The reaction mixture was heated in a 140° C. oil bath. After stirring vigorously for 15 minutes, the material dissolved in the acid. Heating was continued for a total of 6 hours. A 5-L flask equipped with an overhead stirrer and a condenser was cooled to 0° C. and charged with 308 g of 50% NaOH and 125 mL of water. The alkaline solution was vigorously stirred and the sulfuric acid mixture was added through an addition funnel over a 45-minute period (conducted by transferring about 20 mL aliquots into the addition funnel). The resulting mixture was intended to have a pH of 7. the reaction was maintained at 0° C. and 225 mL of 37% formaldehyde and 225 mL of 88% formic acid were added sequentially. The mixture was heated to an internal temperature of 90° C. The evolution of CO2 was moderate. The reaction was heated at this temperature for 14 hours. The reaction was cooled to 0° C. and 490 g of 50% NaOH was added over a 35-minute period through an addition funnel. The resulting slurry showed a pH of 14 (indicator paper). About 400 mL of hexane were added and the mixture was stirred for 2 minutes. The reaction mixture was filtered and the crystalline material on the grit was washed with an additional 150 mL of hexane. The organic phase of the mother liquor was separated and the aqueous portion was extracted with 200 mL of hexane. The combined extracts were dried over a small amount of Na2SO4, filtered, and concentrated to yield 25.34 g (88%) of MeTACN as a very light yellow liquid. The material was stored in a tightly-capped brown glass bottle at 0° C.

reactant | sulfuric acid | 106 mL | S(O)(O)(=O)=O | H2O4S
reactant | TACN | C1CNCCNCCN1 | C6H15N3
reactant | NaOH | 308 g | [OH-].[Na+]
reactant | formaldehyde | 225 mL | C=O | CH2O
reactant | CO2 | C(=O)=O | CO2
reactant | NaOH | 490 g | [OH-].[Na+]
reactant | hexane | 400 mL | CCCCCC | C6H14
solvent | formic acid | 225 mL | C(=O)O | CH2O2
solvent | water | 125 mL | O | H2O
solvent | water | 19 ml | O | H2O
product | 1,4,7-Trimethyl-1,4,7-triazacyclononane | CN1CCN(CCN(CC1)C)C | C9H21N3
